US05589500
(b) Preparation of 1-(4-(8-Chlorooctoxy)phenyl)-2-phenyl-1-butanone
8-Chlorooctoxybenzene (9.1 g, 38 mmol) was added to a stirred solution of 2-phenylbutyric acid (7.48 g, 46 mmol) in trifluoroacetic anhydride (7.5 ml, 52 mmol) and stirring continued for 16 h. The mixture was poured into saturated sodium bicarbonate solution (100 ml), neutralised by addition of sodium bicarbonate, and extracted with ether (2×100 ml). The combined organic extracts were dried (MgSO4) and concentrated in vacuo. The residues were column-chromatographed (silica; eluant 5-10% dichloromethane in petrol) to give the title compound as a colourless oil (11.86 g, 81%). NMR (CDCl3) δ=0.87 (3H,t,J=7.3 Hz), 1.26-1.50 (8H, m), 1.69-1.90 (5H,m), 2.08-2.26 (1H,m), 3.51 (2H,t,J=6.6 Hz), 3.94 (2H,t,J=6.6 Hz), 4.38 (1H,t,J=7.3 Hz), 6.83 (2H,d,J=8.8 Hz), 7.15-7.20 (1H,m), 7.20-7.28 (4H,m), 7.93 (2H,d,J=8.8 Hz). IR (liq, cm-1) 2933, 2858, 1673, 1600, 1574, 1510 MS(Chemical Ionisation)m/e=387 (M+ +1, 10%)

reactant | 8-Chlorooctoxybenzene | 38 mmol, 9.1 g | ClCCCCCCCCOC1=CC=CC=C1 | C14H21ClO
reactant | 2-phenylbutyric acid | 46 mmol, 7.48 g | C1(=CC=CC=C1)C(C(=O)O)CC | C10H12O2
reactant | trifluoroacetic anhydride | 52 mmol, 7.5 ml | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
solvent | sodium bicarbonate | 100 ml | C([O-])(O)=O.[Na+]
product | 1-(4-(8-Chlorooctoxy)phenyl)-2-phenyl-1-butanone | 11.86 g, 81% | ClCCCCCCCCOC1=CC=C(C=C1)C(C(CC)C1=CC=CC=C1)=O | C24H31ClO2
